US04314944
A solution of 50.0 g (0.331 mole) of p-methoxyphenethylamine in 500 ml of dichloromethane was cooled to 0° C. under an argon atmosphere. A solution of 93.6 ml (0.664 mole) of trifluoroacetic anhydride in 60 ml of dichloromethane was added dropwise. The reaction mixture was stirred at 0° for 1/2 hour then at room temperature for 11/2 hours. The volatiles were removed and toluene was added to the residue which was then evaporated. The residue was crystallized from 800 ml of 1:1 ether-petroleum ether to give 55.8 g (68.2%) of a first crop of (2-trifluoroacetamidoethyl)-4-methoxybenzene as white needles, m.p. 84.0° C. Concentration of the mother liquors and recrystallization in 1:1 ether-petroleum ether afforded a second crop of off-white solid, 16.6 g (20.2%), m.p. 82.5°-84.0°.

reactant | p-methoxyphenethylamine | 0.331 mole, 50.0 g | COC1=CC=C(CCN)C=C1 | C9H13NO
reactant | trifluoroacetic anhydride | 0.664 mole, 93.6 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | (2-trifluoroacetamidoethyl)-4-methoxybenzene | FC(C(=O)NCCC1=CC=C(C=C1)OC)(F)F | C11H12F3NO2
